US08445684B2
To a solution of tert-butyl 3(S)-[3-(benzyloxy)propyl]piperidine-1-carboxylate (280 mg, 0.84 mmol) in CH2Cl2/H2O (6 mL/0.5 mL) was added CF3COOH (1.92 g, 16.8 mmol, 20 equiv.) at 0° C. under N2. The solution was stirred overnight at room temperature. After concentration under reduced pressure, water was added, and the solution was washed with hexane. The aqueous phase was basified with saturated NaHCO3 solution and extracted with EtOAc. The combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed in vacuo to give 3(S)-[3-(benzyloxy)propyl]piperidine (190 mg, 97%) as a yellow oil. LC-MS (ESI) m/z 234 (M+H+).

reactant | tert-butyl 3(S)-[3-(benzyloxy)propyl]piperidine-1-carboxylate | 0.84 mmol, 280 mg | C(C1=CC=CC=C1)OCCC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H31NO3
reactant | CF3COOH | 16.8 mmol, 1.92 g, 20 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 H2O | 6 mL | C(Cl)Cl.O
product | 3(S)-[3-(benzyloxy)propyl]piperidine | 190 mg, 97% | C(C1=CC=CC=C1)OCCC[C@H]1CNCCC1 | C15H23NO
